US07429565B2
6-Allyl-5-ethyl-4-methyl-7-(2-trimethylsilanyl-ethoxy)-3H-isobenzofuran-1-one
To a solution of 6-allyl-5-ethyl-7-hydroxy-4-methyl-3H-isobenzofuran-1-one (199 mg, 0.857 mmol), PPh3 (337 mg, 1.286 mmol), and 2-trimethylsilylethanol in THF (3 mL) at 0° C. was added diisopropyl azodicarboxylate (259 mg, 1.286 mmol). The resulting yellow solution was allowed to warm to room temperature and stirred for one hour. The solvent was removed in vacuo and the crude material was dissolved in diethyl ether (3 mL). Hexanes (1.5 mL) were added. Triphenylphosphine oxide was removed by filtration and the filtrate was concentrated and purified by silica gel chromatography to provide the desired product (261 mg, 92%) as a clear oil. 1H NMR (300 MHz, CDCl3): δ=0.04 (s, 9H), 1.15 (t, J=7.8 Hz, 3H), 1.25 (m, 2H), 2.20 (s, 3H), 2.73 (q, J=7.8 Hz, 2H), 3.54 (m, 2H), 4.28 (m, 2H), 4.95 (d, J=17.1 Hz, 1H), 5.02 (d, J=10.2 Hz, 1H), 5.15 (s, 2H), 5.95 (m, 1H) ppm.

reactant | 6-allyl-5-ethyl-7-hydroxy-4-methyl-3H-isobenzofuran-1-one | 0.857 mmol, 199 mg | C(C=C)C1=C(C(=C2COC(C2=C1O)=O)C)CC | C14H16O3
reactant | PPh3 | 1.286 mmol, 337 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 2-trimethylsilylethanol | C[Si](CCO)(C)C | C5H14OSi
reactant | diisopropyl azodicarboxylate | 1.286 mmol, 259 mg | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 6-Allyl-5-ethyl-4-methyl-7-(2-trimethylsilanyl-ethoxy)-3H-isobenzofuran-1-one | 261 mg, 92% | C(C=C)C1=C(C(=C2COC(C2=C1OCC[Si](C)(C)C)=O)C)CC | C19H28O3Si
